Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ATRIPLA / morphine
 
Attending: ___
 
Chief Complaint:
cough, shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo man with h/o HIV/AIDS on HAART (CD4 193 
and VL undetectable in ___, Bactrim ppx, HCV cirrhosis c/b 
grade 1 varices, s/p Harvoni with VL undetectable, here with 3 
weeks of dyspnea and cough.

Patient reports he was on cruise to ___ in ___ and 
initially developed symptoms of cough productive of yellow-green 
sputum and malaise shortly afterwards. He received a letter 
stating that there were cases of Legionella aboard this cruise. 
HE was seen in ___ clinic ___ and treated with 5 day course of 
azithromycin. CXR was negative and urine legionella returned 
negative.

Subsequently patient developed sensation of constant chest 
tightness over the past 2 weeks, possibly pleuritic with a very 
deep inspiration. Also has had sore throat and periodic 
nocturnal sensation that his throat is tightening. Endorses 
subjective fevers but rarely takes temperature; single recorded 
was 99 at home. Endorses myalgias and chronic arthralgias. 
Symptoms are worse at night and early morning. No hemoptysis, 
nausea, vomiting, diarrhea, constipation.

In the ED, initial vitals were:  98.2 105 ___ 100%RA
Labs were notable for:  WBC 9.7, chemistry and LFTs 
unremarkable, lactate 1.6. UA unremarkable. Flu swab pending.

Patient was given:  2L NS, cefepime 2g, albuterol and 
ipratropium nebs, benzonatate 100 mg, dilaudid 1 mg + 0.5 mg

On the floor, patient continues to endorse some dyspnea and 
malaise. Speaking in hoarse voice. No acute complaints.

Review of systems:  As per HPI
 
Past Medical History:
HIV/AIDS c/b prior PJP
Hepatitis C s/p Harvoni with negative VL
Hepatitis C cirrhosis c/b grade 1 varices on EGD ___
H/o hemoptysis
ADHD
Depression
S/p appendectomy

 
Social History:
___
Family History:
Mother: Died from MI age ___, HTN
Father: Alive with HTN, MI, CABG, bladder cancer
Siblings: 12 half siblings. All obese
 
Physical Exam:
Admission exam:
Vitals:  98.4 136/95 96 20 98%RA
General: Thin, alert, oriented, breathing comfortably, speaking 
very hoarsely/whispering but in full sentences, not coughing, 
NAD  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD, tenderness with no 
underlying mass in left submandibular space  
CV: Regular rate and rhythm, soft systolic murmur
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no 
organomegaly, tender in epigastrium with no rebound/guarding, 
negative ___.
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

Discharge physical exam:
Vitals:  98.4 ___ 98-100%RA
General: Thin, alert, oriented, breathing comfortably, speaking 
very hoarsely/whispering but in full sentences, not coughing, 
NAD  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, soft systolic murmur
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no 
organomegaly, tender in epigastrium with no rebound/guarding
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait deferred

 
Pertinent Results:
Admission labs:
___ 01:47PM BLOOD WBC-9.7 RBC-4.51* Hgb-14.9 Hct-41.9 
MCV-93 MCH-33.0* MCHC-35.6 RDW-12.7 RDWSD-43.5 Plt ___
___ 01:47PM BLOOD Neuts-68.0 ___ Monos-6.7 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-6.60*# AbsLymp-2.32 AbsMono-0.65 
AbsEos-0.06 AbsBaso-0.04
___ 01:47PM BLOOD Glucose-90 UreaN-13 Creat-0.8 Na-137 
K-4.1 Cl-103 HCO3-24 AnGap-14
___ 01:47PM BLOOD ALT-15 AST-28 AlkPhos-54 TotBili-0.4
___ 01:47PM BLOOD Lipase-30
___ 01:47PM BLOOD Albumin-4.5
___ 01:57PM BLOOD Lactate-1.6

Notable micro:
___ 05:15PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

CXR ___ No acute cardiopulmonary abnormality.

CT chest ___
1. Mild central bronchiectasis with minimal bronchial wall 
thickening suggestive of mild airways disease. No mucoid 
impaction for pneumonia. 
2. 2 mm right upper lobe nodule, unchanged since ___. 

3. Right upper lobe focal scarring. 
4. Stable enlarged porta hepatis lymph node, likely reactive. 
5. Cholelithiasis without signs of acute cholecystitis. 
6. Stable splenomegaly. 

Discharge labs:
___ 06:29AM BLOOD WBC-5.4 RBC-4.83 Hgb-15.8 Hct-45.3 MCV-94 
MCH-32.7* MCHC-34.9 RDW-12.7 RDWSD-43.8 Plt ___
___ 06:29AM BLOOD Glucose-99 UreaN-14 Creat-0.7 Na-137 
K-3.4 Cl-102 HCO3-24 AnGap-14
___ 06:29AM BLOOD ALT-18 AST-31 LD(LDH)-174 AlkPhos-63 
TotBili-0.7
___ 06:29AM BLOOD Albumin-4.6 Calcium-9.4 Phos-2.4* Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with h/o HIV/AIDS on HAART (CD4 193 
and VL undetectable in ___, Bactrim ppx, HCV cirrhosis c/b 
grade 1 varices, s/p Harvoni with VL undetectable, here with 3 
weeks of cough and sore throat. 

#Dyspnea: Patient with several weeks dyspnea and cough, 
associated with subjective fevers, myalgias, sore throat, 
hoarseness. S/p recent z-pak for possible legionella, but 
legionella urine Ag was negative; pt on bactrim for PCP ___. 
Patient with HIV/AIDS and last CD4<200, however clinically 
appears very well, has no e/o PCP or other pneumonia on imaging. 
Question whether this could be explained by GERD given 
hoarseness, epigastric pain, nocturnal symptoms. At time of 
discharge, GC/chlamydia throat swab pending. Patient was treated 
with cepacol for sore throat and codeine for cough, although he 
was not noted to cough severely in the hospital. 

#Epigastric Abdominal pain: Patient with tender epigastrium in 
absence of other GI symptoms. Patient with heavy EtOH use though 
pain does not appear severe enough for pancreatitis. E/o 
cholelithiasis on imaging. Patient's lipase was with in normal 
limits. Patient was treated with GI cocktail with minimal 
improvement while admitted. Pain was likely ___ muscle strain 
from coughing fits. 

#HIV/AIDS: Patient on abacavir-lamivudine, dolutegravir and 
Bactrim ppx. Last CD4 193, VL undetectable 1 month prior. 
Patient endorses full adherence to all medications. Patient was 
continued on HIV medications through course of admission.

#HCV cirrhosis: S/p treatment for HCV with VL undetectable 
___. Cirrhosis c/b grade 1 varices on EGD ___. LFTs wnl. 
Patient completed treatment with Harvoni on ___.

#Chronic pain/neuropathy: Long-standing. Neuropathy likely 
secondary to HIV per neurologist. Chronic right-sided, pleuritic 
chest pain, ___, developed following episodes of hemoptysis of 
unknown etiology in ___. Patient was continued on lyrica 
through course of admission.

TRANSITIONAL ISSUES
- Pt to f/u with PCP ___ 1 week
- Codeine prescription for cough upon discharge. 
- continued Smoking cessation counseling needed; pt counseled 
during admission and discharged with nicotine replacement patch 
+ gum
- Consider trial PPI or H2 blocker on discharge
- Blood, urine cultures pending
- Gonorrhea/chlamydia throat swab and urine cultures pending
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 600 mg PO DAILY 
2. LaMIVudine 300 mg PO DAILY 
3. Calcipotriene 0.005% Cream 1 Appl TP DAILY 
4. Pregabalin 50 mg PO TID 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
6. TraZODone 50 mg PO QHS:PRN insomnia 
7. Dolutegravir 50 mg PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 600 mg PO DAILY 
2. Dolutegravir 50 mg PO DAILY 
3. LaMIVudine 300 mg PO DAILY 
4. Pregabalin 50 mg PO TID 
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
6. TraZODone 50 mg PO QHS:PRN insomnia 
7. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ mL by mouth q6hr Refills:*0
8. Calcipotriene 0.005% Cream 1 Appl TP DAILY 
9. Codeine Sulfate 30 mg PO Q6H 
RX *codeine sulfate 30 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0
10. Nicotine Lozenge 4 mg PO Q2H:PRN craving 
RX *nicotine (polacrilex) 4 mg Chew 1 piece q2hr Disp #*60 Gum 
Refills:*1
11. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 22 mg/24 hour apply 1 patch once a day Disp #*30 
Patch Refills:*0
12. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing/shortness of 
breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puff inh every six 
(6) hours Disp #*1 Inhaler Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Cough with sore throat and abdominal pain

Secondary diagnoses:
HIV with undetectable viral load
HCV with undetectable viral load
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for the privilege of caring for you during your stay 
at ___. You came in with cough, sore throat, difficulty 
breathing, and abdominal pain. You tested negative for flu and 
pancreatitis, your tests for legionella, gonorrhea, and 
chlamydia are pending. You received antibiotics, breathing 
treatments, and pain medications. While we are uncertain of the 
cause of your abdominal pain, cough, and sore throat, we have 
ruled out major diseases. Your condition improved overnight and 
we anticipate will continue to improve with time. You are stable 
and able to return home.

Please call ___ to make an appointment with your 
primary care provider ___ for ___ next week.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___